US07612055B2
x) (S)-3-(3-Bromo-5-methyl-phenylmethanesulfonyl)-2-methyl-propionic acid
To a solution of 6.48 g (21 mmol) (S)-3(3-bromo-5-methyl-benzylsulfanyl)-2-methyl-propionic acid in 70 ml acetonitrile and 35 ml water is added 65.7 g (107 mmol) oxone®. After stirring for 2.5 hrs at rt the mixture is diluted with EtOAc and water to get a clear solution. The organic layer is washed with brine, dried over magnesium sulfate and the solvent is evaporated. Crystallization from DCM/diethyl ether and a little methanol gives the title compound as white crystals.

reactant | (S)-3(3-bromo-5-methyl-benzylsulfanyl)-2-methyl-propionic acid | 21 mmol, 6.48 g | BrC=1C=C(CSC[C@H](C(=O)O)C)C=C(C1)C | C12H15BrO2S
reactant | oxone | 107 mmol, 65.7 g | OOS(=O)[O-].[K+]
reactant | water | 35 ml | O | H2O
solvent | acetonitrile | 70 ml | C(C)#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (S)-3-(3-Bromo-5-methyl-phenylmethanesulfonyl)-2-methyl-propionic acid | BrC=1C=C(C=C(C1)C)CS(=O)(=O)C[C@H](C(=O)O)C | C12H15BrO4S
